US04067726
Preparation of 3-(N'-methylureido)-phenylacetic acid methylamide
0.1 g of triethylenediamine, followed by 5.7 g (0.1 mol) of methyl isocyanate, was added to a solution of 16.4 g (0.1 mol) of 3-amino-phenylacetic acid methylamide in 100 ml of dioxane at room temperature. The mixture was stirred for a further 3 hours at 40° to 50° C. After cooling, the crystalline precipitate which had separated out was filtered off and dried. After recrystallization from ethanol, 19.5 g (88% of theory) of 3-(N'-methylureido)-phenylacetic acid methylamide of melting point 175°-177° C were obtained.

reactant | triethylenediamine | 0.1 g | C1CN2CCN1CC2 | C6H12N2
reactant | methyl isocyanate | 0.1 mol, 5.7 g | CN=C=O | C2H3NO
reactant | 3-amino-phenylacetic acid methylamide | 0.1 mol, 16.4 g | CNC(CC1=CC(=CC=C1)N)=O | C9H12N2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-(N'-methylureido)-phenylacetic acid methylamide | CNC(CC1=CC(=CC=C1)NC(=O)NC)=O | C11H15N3O2
